US05639770
A reaction was conducted in the same manner as in Example 1, by using 6-(1,2-dihydroxyethyl)-2-(α-bromoacetyl)pyridine and 3,4-diethoxythiobenzamide, to obtain 2-(3,4-diethoxyphenyl)-4-[6-(1,2-dihydroxyethyl)-2-pyridyl]thiazole.

reactant | 6-(1,2-dihydroxyethyl)-2-(α-bromoacetyl)pyridine | OC(CO)C1=CC=CC(=N1)C(CBr)=O | C9H10BrNO3
reactant | 3,4-diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-[6-(1,2-dihydroxyethyl)-2-pyridyl]thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C(CO)O | C20H22N2O4S
